US04725583
(4S)-2,8-Dimethyl-4-[(toluenesulfonyl)amino]-5-nonanone
To a stirred -78° C. solution of Ts-Leu (15 g, 53 mmol) in dry THF (240 ml) was added n-butyl lithium (57.8 ml of a 0.91M solution in hexane) followed 15 minutes later by isopentyl magnesium bromide (185 ml of a 0.8M solution in THF). The mixture was heated at reflux for 3 days, then cooled and poured into 0° C. 1M HCl (500 ml). The layers were separated and the aqueous phase was extracted with ether (3×150 ml). The combined organic layers were washed with saturated NaHCO3 (2×150 ml) and brine (150 ml). Drying and evaporating provided a residue which was chromatographed on silica gel to give 7.43 g (41%) of the desired product. Mass spectrum: (M+H)+ =340.

reactant | Ts-Leu | 53 mmol, 15 g | N([C@@H](CC(C)C)C(=O)O)S(=O)(=O)C1=CC=C(C)C=C1 | C13H19NO4S
reactant | n-butyl lithium | C(CCC)[Li]
reactant | isopentyl magnesium bromide | C(CC(C)C)[Mg]Br
reactant | HCl | 1M, 500 ml | Cl | ClH
solvent | THF | 240 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (4S)-2,8-Dimethyl-4-[(toluenesulfonyl)amino]-5-nonanone | 7.43 g, 41% | CC(C)C[C@@H](C(CCC(C)C)=O)NS(=O)(=O)C=1C(=CC=CC1)C | C18H29NO3S
